US05464865
To a solution of 1-bromo-(2-methoxyethenyl)benzene (2.13 g) in THF (20 ml) at -78° is added dropwise a 2.5M solution of n-butyllithium in hexane (4.2 ml). The temperature is not allowed to rise above -55°. After 90 min, a solution of N-methoxy-N-methyl-10-undecenamide (2.3 g) in THF (5 ml) is added dropwise, and the mixture stirred an additional 60 min at -78°. The mixture is not allowed to warm, but is immediately quenched by the addition of 10% aqueous citric acid. The mixture is extracted with dichloromethane, and the extracts are dried, filtered, and concentrated. The crude product is chromatographed with 1:1 dichloromethanehexane, to provide 1-(4-(2-methoxyethenyl)phenyl)-10-undecen-1-one as a colorless solid.

reactant | 1-bromo-(2-methoxyethenyl)benzene | 2.13 g | BrC1=C(C=CC=C1)C=COC | C9H9BrO
reactant | n-butyllithium | C(CCC)[Li]
reactant | N-methoxy-N-methyl-10-undecenamide | 2.3 g | CON(C(CCCCCCCCC=C)=O)C | C13H25NO2
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | hexane | 4.2 ml | CCCCCC | C6H14
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | 1-(4-(2-methoxyethenyl)phenyl)-10-undecen-1-one | COC=CC1=CC=C(C=C1)C(CCCCCCCCC=C)=O | C20H28O2
